US06525064B1
N-[4-(4-amino-6,7-dimethyl-1H-imidazol[4,5-c]pyridin-1-yl)butyl]-4-{(E)-[4-(dimethylamino)phenyl]diazenyl}benzenesulfonamide
Using the method of Examples 15-29 4-dimethylaminoazobenzene-4′-sulfonyl chloride was reached with of 1-(4-aminobutyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired product. The observed accurate mass was 521.2452.

reactant | 4-dimethylaminoazobenzene-4′-sulfonyl chloride | CN(C)C1=CC=C(C=C1)N=NC2=CC=C(C=C2)S(=O)(=O)Cl | C14H14ClN3O2S
reactant | 1-(4-aminobutyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCCCN1C=NC=2C(=NC(=C(C21)C)C)N | C12H19N5
product | N-[4-(4-amino-6,7-dimethyl-1H-imidazol[4,5-c]pyridin-1-yl)butyl]-4-{(E)-[4-(dimethylamino)phenyl]diazenyl}benzenesulfonamide | NC1=NC(=C(C2=C1N=CN2CCCCNS(=O)(=O)C2=CC=C(C=C2)\N=N\C2=CC=C(C=C2)N(C)C)C)C | C26H32N8O2S
